US04354973
8-Chloro-6-(2-chlorophenyl)-2,5-dimethyl-5,6-dihydro-2H,4H-pyrrolo[3,4-d][2]benzazepine
Portionwise 0.2 g (52 mmol) of sodium borohydride was added to a solution of 3.0 g (6.3 mmol) of 8-chloro-6-(2-chlorophenyl)-2,5-dimethyl-2H,4H-pyrrolo[3,4-d][2]benzazepin-5-ium iodide in 50 ml of methanol which was cooled to 0°. The mixture was stirred at 0° for 20 min followed by the removal of the methanol at reduced pressure. The residue was partitioned between methylene chloride and water. The methylene chloride solution was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to give a pale yellow oil. Crystallization from ether gave colorless crystals, mp 154°-155°.

reactant | sodium borohydride | 52 mmol, 0.2 g | [BH4-].[Na+]
reactant | 8-chloro-6-(2-chlorophenyl)-2,5-dimethyl-2H,4H-pyrrolo[3,4-d][2]benzazepin-5-ium iodide | 6.3 mmol, 3.0 g | [I-].ClC1=CC2=C(C=3C(C[N+](=C2C2=C(C=CC=C2)Cl)C)=CN(C3)C)C=C1
solvent | methanol | 50 ml | CO | CH4O
product | 8-Chloro-6-(2-chlorophenyl)-2,5-dimethyl-5,6-dihydro-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN(C2C2=C(C=CC=C2)Cl)C)=CN(C3)C)C=C1 | C20H18Cl2N2
